US03962249
trans-1-[3-(o-Methoxyphenyl)propyl]-2,5-dimethyl-4-(2-furoyl)piperazine hydrochloride
The compound was obtained by following the same process as in Example 2 from a mixture of trans-1-[3-(o-methoxyphenyl)propyl]-2,5-dimethylpiperazine [b.p. 146° - 150°C (2 mmHg), dipicrate, m.p. 260° - 265°C], 2-furoyl chloride and benzene.

reactant | trans-1-[3-(o-methoxyphenyl)propyl]-2,5-dimethylpiperazine | COC1=C(C=CC=C1)CCCN1[C@H](CN[C@@H](C1)C)C | C16H26N2O
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | trans-1-[3-(o-Methoxyphenyl)propyl]-2,5-dimethyl-4-(2-furoyl)piperazine hydrochloride | Cl.COC1=C(C=CC=C1)CCCN1[C@H](CN([C@@H](C1)C)C(=O)C=1OC=CC1)C | InChI=1S/C21H28N2O3.ClH/c1-16-15-23(21(24)20-11-7-13-26-20)17(2)14-22(16)12-6-9-18-8-4-5-10-19(18)25-3;/h4-5,7-8,10-11,13,16-17H,6,9,12,14-15H2,1-3H3;1H/t16-,17+;/m0./s1
